US03936464
Preparation of 1-acetyl-3-[2-(4-ethyl-4-phenylpiperidino)ethyl]-indoline
In the manner described in Example 1, treatment of 1-acetyl-3-(2-bromoethyl)indoline with 4-ethyl-4-phenylpiperidine gives an oil. On reaction with molar equivalent of fumaric acid, a crystalline fumarate results. After recrystallization from acetone-hexane it melts at 173°-178°C.

reactant | 1-acetyl-3-(2-bromoethyl)indoline | C(C)(=O)N1CC(C2=CC=CC=C12)CCBr | C12H14BrNO
reactant | 4-ethyl-4-phenylpiperidine | C(C)C1(CCNCC1)C1=CC=CC=C1 | C13H19N
reactant | fumaric acid | C(\C=C\C(=O)O)(=O)O | C4H4O4
product | 1-acetyl-3-[2-(4-ethyl-4-phenylpiperidino)ethyl]-indoline | C(C)(=O)N1CC(C2=CC=CC=C12)CCN1CCC(CC1)(C1=CC=CC=C1)CC | C25H32N2O
